US06399656B1
a) ethyl 4-(2-pyridinyl)benzoate
4-(Ethoxycarbonyl)phenylzinc iodide in tetrahydrofuran (0.5M, 2 mL, 1 mmol) was added to a solution of 2-bromopyridine (0.16 g, 1 mmol) and tetrakis(triphenylphosphine)palladium(0) (63 mg, 0.05 mmol) in tetrahydrofuran (5 mL) and stirred at RT for 3 h. The reaction was quenched with saturated ammonium chloride and extracted three times with ethyl acetate. The combined organic phase was dried (MgSO4), concentrated in vacuo, and the residue chromatographed (silica gel, 10% ethyl acetate/hexane) to give the title compound as a yellow solid (0.15 g).

reactant | 4-(Ethoxycarbonyl)phenylzinc iodide | [I-].C(C)OC(=O)C1=CC=C(C=C1)[Zn+]
reactant | 2-bromopyridine | 1 mmol, 0.16 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 63 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 1 mmol, 0.5M, 2 mL | O1CCCC1 | C4H8O
product | ethyl 4-(2-pyridinyl)benzoate | 0.15 g | N1=C(C=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C14H13NO2
